US08703768B2
Step 2: 6-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2,3-dimethyl-benzoic acid
To a solution of methyl 6-(6-cyclopropyl-3-(pyrimidin-5-ylamino)pyrazine-2-carboxamido)-2,3-dimethylbenzoate (0.05 g, 119 μmol) in pyridine (1 ml) at r.t under an argon atmosphere was added lithium iodide (125 mg, 932 μmol). The mixture was heated at 100° for 16 hr. The solvent was evaporated. The crude product was used directly in the next step.

reactant | methyl 6-(6-cyclopropyl-3-(pyrimidin-5-ylamino)pyrazine-2-carboxamido)-2,3-dimethylbenzoate | 119 μmol, 0.05 g | C1(CC1)C1=CN=C(C(=N1)C(=O)NC1=CC=C(C(=C1C(=O)OC)C)C)NC=1C=NC=NC1 | C22H22N6O3
reactant | lithium iodide | 932 μmol, 125 mg | [I-].[Li+]
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 6-{[6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2,3-dimethyl-benzoic acid | C1(CC1)C1=CN=C(C(=N1)C(=O)NC1=CC=C(C(=C1C(=O)O)C)C)NC=1C=NC=NC1 | C21H20N6O3
